US08022062B2
7-Chloro-6-(3-methoxycarbonylbenzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 347 to react 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine with methyl 3-(bromomethyl)benzoate. Use a method similar to the General Procedure 1-5, basic workup, and a method similar to the General Procedure 2-2 to give the title compound. MS (APCI+) m/z: 362 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | methyl 3-(bromomethyl)benzoate | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
product | 7-Chloro-6-(3-methoxycarbonylbenzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=CC(=CC=C1)C(=O)OC | InChI=1S/C19H20ClNO2S.ClH/c1-23-19(22)15-4-2-3-13(11-15)12-24-18-16-8-10-21-9-7-14(16)5-6-17(18)20;/h2-6,11,21H,7-10,12H2,1H3;1H
